US07534455B2
Preparation of Gemcitabine solution:
Reconstituted 200 mg of Gemcitabine HCl powder with 6.66 ml of PBS (phosphate buffered saline) to final concentration of 30 mg/ml.

reactant | Gemcitabine HCl | 200 mg | C1=CN(C(=O)N=C1N)[C@H]2C([C@@H]([C@H](O2)CO)O)(F)F.Cl
reactant | PBS | 6.66 ml | OP(=O)(O)[O-].OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Cl-].[Cl-].[K+].[K+]
product | Gemcitabine | C1=CN(C(=O)N=C1N)[C@H]2C([C@@H]([C@H](O2)CO)O)(F)F | C9H11F2N3O4
